### PR TITLE
[Merged by Bors] - feat(LocalField): add an instance `IsAdicComplete 𝓂[K] 𝒪[K]`

### PR DESCRIPTION
**Pull request by WenrongZou**
In this PR, I add an instance `IsAdicComplete 𝓂[K] 𝒪[K]`.
Deletions: proof_wanted: isAdicComplete.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LocalField/Basic.lean [hunk 1]
```diff
@@ -169,6 +168,32 @@ instance : CompleteSpace 𝒪[K] :=
   (compactSpace_iff_completeSpace_and_isDiscreteValuationRing_and_finite_residueField.mp
     (inferInstanceAs (CompactSpace 𝒪[K]))).1
 
+lemma maximalIdeal_pow_isClosed (n : ℕ) :
+    IsClosed ((𝓂[K] ^ n : Ideal 𝒪[K]) : Set 𝒪[K]) :=
+  IsNoetherianRing.isClosed_ideal (𝓂[K] ^ n)
```
Comment (tb65536) [inline Mathlib/NumberTheory/LocalField/Basic.lean]: I'm not sure that this is worth having given that it is a specialization of `IsNoetherianRing.isClosed_ideal`.

File: Mathlib/NumberTheory/LocalField/Basic.lean [hunk 2]
```diff
@@ -169,6 +168,32 @@ instance : CompleteSpace 𝒪[K] :=
...
+
+instance isAdicComplete : IsAdicComplete 𝓂[K] 𝒪[K] where
+  haus' := (inferInstance : IsHausdorff 𝓂[K] 𝒪[K]).haus
+  prec' f hf := by
+    obtain ⟨L, hL⟩ : (⋂ n, ((fun x => f n + x) '' ↑(𝓂[K] ^ n))).Nonempty := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/LocalField/Basic.lean]: You should use \mapsto instead of =>

Comment (tb65536) [inline Mathlib/NumberTheory/LocalField/Basic.lean]: Can you use pointwise vadd (of the sort used in `Set.mem_vadd_set`) instead of this custom image under addition?

**Comment by tb65536** [comment]
Can you also add a commit message above the line in the PR description?

File: Mathlib/NumberTheory/LocalField/Basic.lean (hunk 1 above)
Comment (WenrongZou) [reply Mathlib/NumberTheory/LocalField/Basic.lean]: Thanks! I will remove it.

File: Mathlib/NumberTheory/LocalField/Basic.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/NumberTheory/LocalField/Basic.lean]: Thanks for your suggestion! I am not sure using vadd is better, since we need notation like `(⋂ n, (f n +ᵥ ((𝓂[K] ^ n : Ideal 𝒪[K]) : Set 𝒪[K]))).Nonempty `.  Also it will need to use `Set.mem_vadd_set` in the proof, which looks worse than before. However, if we prefer vadd in mathlib, I am happy to modify it.

**Comment by WenrongZou** [comment]
> Can you also add a commit message above the line in the PR description?

I am not sure I did the right thing. I add a message before PR description. 
-awaiting-author

File: Mathlib/NumberTheory/LocalField/Basic.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/NumberTheory/LocalField/Basic.lean]: My fault. If we add a additional instance that `HVAdd M (Submodule R M) (Set M)`, we could avoid to do coercion twice. Thanks for your suggestion!

**Comment by tb65536** [comment]
You should swap the two parts of the commit message. It's only the bit above the line that becomes the commit message (and you need to add an extra newline afterwards to prevent the bold).

File: Mathlib/Algebra/Module/Submodule/Defs.lean [hunk 3]
```diff
@@ -165,6 +165,24 @@ equality, coming from the choice axiom, so that we don't have to provide
...
 noncomputable instance decidableEq : DecidableEq (Submodule R M) := Classical.typeDecidableEq _
 
+instance : HVAdd M (Submodule R M) (Set M) where
+  hVAdd a p := (fun x ↦ a + x) '' p
+
+instance : HVAdd (Submodule R M) M (Set M) where
+  hVAdd p a := (fun x ↦ x + a) '' p
+
+instance : HVAdd M (Set M) (Set M) where
+  hVAdd a p := (fun x ↦ a + x) '' p
```
Comment (tb65536) [inline Mathlib/Algebra/Module/Submodule/Defs.lean]: This seems a bit strange. Surely we have this already?

File: Mathlib/Algebra/Module/Submodule/Defs.lean [hunk 4]
```diff
@@ -165,6 +165,24 @@ equality, coming from the choice axiom, so that we don't have to provide
 `[DecidableEq (Submodule R M)]` arguments in lemma statements. -/
 noncomputable instance decidableEq : DecidableEq (Submodule R M) := Classical.typeDecidableEq _
 
+instance : HVAdd M (Submodule R M) (Set M) where
+  hVAdd a p := (fun x ↦ a + x) '' p
+
+instance : HVAdd (Submodule R M) M (Set M) where
+  hVAdd p a := (fun x ↦ x + a) '' p
```
Comment (tb65536) [inline Mathlib/Algebra/Module/Submodule/Defs.lean]: I might only keep the first of these, unless you really need both?

Comment (WenrongZou) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: I think we only need the first one. I will drop the second one.

File: Mathlib/Algebra/Module/Submodule/Defs.lean (hunk 3 above)
Comment (WenrongZou) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: I also think this is stange. But lean complains we don't have it.

**Comment by WenrongZou** [comment]
-awaiting-author

File: Mathlib/Algebra/Module/Submodule/Defs.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: Something like Set.vaddSet?

Comment (WenrongZou) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: Ah. I see. I need to `open scoped Pointwise`. Thanks for your reviews!

File: Mathlib/Algebra/Module/Submodule/Defs.lean [hunk 5]
```diff
@@ -165,6 +165,13 @@ equality, coming from the choice axiom, so that we don't have to provide
 `[DecidableEq (Submodule R M)]` arguments in lemma statements. -/
 noncomputable instance decidableEq : DecidableEq (Submodule R M) := Classical.typeDecidableEq _
 
+instance : HVAdd M (Submodule R M) (Set M) where
+  hVAdd a p := (fun x ↦ a + x) '' p
```
Comment (tb65536) [inline Mathlib/Algebra/Module/Submodule/Defs.lean]: Is it possible to avoid this by just adding the coercions `(_ : Set M)` where needed?

Comment (WenrongZou) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: Yes, it is possible. The reason I add this just to avoid the coercions `(_ : Set M)` since in my prove we need to write `((_ : Ideal R) : Set M)`. And I think it is not convenient.

Comment (tb65536) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: Hmmm, I see. Well, the instance should be scoped to the Pointwise namespace at least.

Comment (WenrongZou) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: Thanks! I will scoped to Pointwise.

Comment (WenrongZou) [reply Mathlib/Algebra/Module/Submodule/Defs.lean]: It is scoped to the Pointwise namespace. This is my first time to do this. Thanks for your suggestion!

File: Mathlib/NumberTheory/LocalField/Basic.lean [hunk 6]
```diff
@@ -169,6 +168,29 @@ instance : CompleteSpace 𝒪[K] :=
...
+      intro n x ⟨y, hy1, hy2⟩
+      simp only [Submodule.vadd_eq_vadd_left, Set.mem_vadd_set, smul_eq_mul, Ideal.mul_top,
+        Submodule.vadd_eq_vadd_left, SetLike.mem_coe, ← hy2, vadd_eq_add] at *
+      exact ⟨f (n + 1) - f n + y, Ideal.add_mem _ ((Submodule.Quotient.eq _).mp
+        (hf (Nat.le_succ _)).symm) (Ideal.pow_le_pow_right (Nat.le_succ _) hy1), by ring⟩
+    refine ⟨L, fun n ↦ ?_⟩
+    obtain ⟨y, hy, hfy⟩ := Set.mem_iInter.mp hL n
+    rw [smul_eq_mul, Ideal.mul_top, SModEq.sub_mem, ← hfy]
+    convert (𝓂[K] ^ n).neg_mem hy using 1
+    ring
```
Comment (tb65536) [inline Mathlib/NumberTheory/LocalField/Basic.lean]: Here's a route which extracts a potentially useful lemma:
```suggestion
open scoped Pointwise in
@[simp]
theorem _root_.Submodule.vadd_set_subset_vadd_set_iff
    {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M] {S : Submodule R M} {x y : M} :
    x +ᵥ (S : Set M) ⊆ y +ᵥ (S : Set M) ↔ x ≡ y [SMOD S] := by
  rw [SModEq.sub_mem]
  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
  · rw [Set.vadd_set_subset_iff_subset_neg_vadd_set, vadd_vadd, neg_add_eq_sub] at h
    simpa [Set.mem_vadd_set_iff_neg_vadd_mem] using h S.zero_mem
  · rw [Set.vadd_set_subset_iff_subset_neg_vadd_set, vadd_vadd, neg_add_eq_sub]
    intro z hz
    simpa [Set.mem_vadd_set_iff_neg_vadd_mem] using S.add_mem h hz

open scoped Pointwise in
instance isAdicComplete : IsAdicComplete 𝓂[K] 𝒪[K] where
  prec' f hf := by
    let S n : Set 𝒪[K] := f n +ᵥ ((𝓂[K] ^ n : Ideal 𝒪[K]) : Set 𝒪[K])
    have hS n : S (n + 1) ⊆ S n := by
      apply (Set.vadd_set_subset_vadd_set_iff.mpr (Ideal.pow_le_pow_right n.le_succ)).trans
      simpa [S] using (hf n.le_succ).symm
    have h n : IsClosed (S n) := (IsNoetherianRing.isClosed_ideal (𝓂[K] ^ n)).vadd (f n)
    obtain ⟨L, hL⟩ := (h 0).isCompact.nonempty_iInter_of_sequence_nonempty_isCompact_isClosed S hS
      (by simp [S, Submodule.nonempty]) h
    refine ⟨L, fun n ↦ ?_⟩
    obtain ⟨y, hy, rfl⟩ := Set.mem_iInter.mp hL n
    simpa [SModEq.sub_mem] using hy
```

File: Mathlib/Algebra/Module/Submodule/Defs.lean [hunk 7]
```diff
@@ -165,6 +165,16 @@ equality, coming from the choice axiom, so that we don't have to provide
...
 
+/-- Pointwise addition of a element in `M` and a submodule of `p`. -/
+scoped instance hVAddSet : HVAdd M (Submodule R M) (Set M) where
+  hVAdd a p := (fun x ↦ a + x) '' p
+
+scoped[Pointwise] attribute [instance] Submodule.hVAddSet
+
+open scoped Pointwise in
+@[simp]
+lemma vadd_eq_vadd_left {a : M} {p : Submodule R M} : a +ᵥ p = a +ᵥ (p : Set M) := rfl
```
Comment (tb65536) [inline Mathlib/Algebra/Module/Submodule/Defs.lean]: I'm still slightly skeptical of this, mostly given the lack of precedent, both of this sort of instance, but also of `HVAdd` usage in general (e.g., see https://loogle.lean-lang.org/?q=HVAdd).

File: Mathlib/NumberTheory/LocalField/Basic.lean (hunk 6 above)
Comment (WenrongZou) [reply Mathlib/NumberTheory/LocalField/Basic.lean]: Thanks! This looks great. And we don't need the instance then.

**Comment by WenrongZou** [comment]
Thanks! I moved a theorem to another file. 
-awaiting-author

File: Mathlib/LinearAlgebra/SModEq/Basic.lean [hunk 8]
```diff
@@ -170,4 +171,30 @@ theorem restrictScalars [SMul S R] [IsScalarTower S R M] : x ≡ y [SMOD U.restr
...
+  rw [SModEq.sub_mem]
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · rw [Set.vadd_set_subset_iff_subset_neg_vadd_set, vadd_vadd, neg_add_eq_sub] at h
+    simpa [Set.mem_vadd_set_iff_neg_vadd_mem] using h S.zero_mem
+  · rw [Set.vadd_set_subset_iff_subset_neg_vadd_set, vadd_vadd, neg_add_eq_sub]
+    intro z hz
+    simpa [Set.mem_vadd_set_iff_neg_vadd_mem] using S.add_mem h hz
+
+@[simp]
+theorem vadd_eq_vadd_iff
```
Comment (tb65536) [inline Mathlib/LinearAlgebra/SModEq/Basic.lean]:
```suggestion
theorem _root_.Submodule.vadd_set_eq_vadd_set_iff
```

File: Mathlib/LinearAlgebra/SModEq/Basic.lean [hunk 9]
```diff
@@ -170,4 +171,30 @@ theorem restrictScalars [SMul S R] [IsScalarTower S R M] : x ≡ y [SMOD U.restr
 theorem idealQuotientMk {R : Type*} [CommRing R] {I : Ideal R} {x y : R} :
     x ≡ y [SMOD I] ↔ Ideal.Quotient.mk I x = Ideal.Quotient.mk I y := Iff.rfl
 
+section Pointwise
+
+open scoped Pointwise
+
+@[simp]
+theorem _root_.Submodule.vadd_set_subset_vadd_set_iff
+    {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M] {S : Submodule R M} {x y : M} :
```
Comment (tb65536) [inline Mathlib/LinearAlgebra/SModEq/Basic.lean]: You might as well make these variables in the section (although some might already be present in the file).

File: Mathlib/LinearAlgebra/SModEq/Basic.lean (hunk 8 above)
Comment (WenrongZou) [reply Mathlib/LinearAlgebra/SModEq/Basic.lean]: Thanks!

**Review by tb65536 — APPROVED** [review]
maintainer merge

File: Mathlib/NumberTheory/LocalField/Basic.lean [hunk 10]
```diff
@@ -169,6 +168,20 @@ instance : CompleteSpace 𝒪[K] :=
   (compactSpace_iff_completeSpace_and_isDiscreteValuationRing_and_finite_residueField.mp
     (inferInstanceAs (CompactSpace 𝒪[K]))).1
 
+open scoped Pointwise in
+instance isAdicComplete : IsAdicComplete 𝓂[K] 𝒪[K] where
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/LocalField/Basic.lean]: Is the autogenerated name OK?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/LocalField/Basic.lean (hunk 10 above)
Comment (WenrongZou) [reply Mathlib/NumberTheory/LocalField/Basic.lean]: Sure. I have changed it. Thanks!

**Comment by WenrongZou** [comment]
Thanks!
bors r+
